data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
955,1036,[CH3:13][C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:14]2([CH3:13])[C:15]#[N:16],water,298.15,29.93136419485752,-5.6862111344218444
2478,2750,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C:27]#[N+:28][C-:29]([C:30]#[N:31])[C:32]([CH3:33])=[O:34]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]([C:30]#[N:31])([C:32]([CH3:33])=[O:34])[N:28]=[C:27]2[C:25]([NH:24][CH3:23])=[O:26],water,298.15,15.160215552868827,-46.97464987789003
2184,2422,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:19]([C:20]([CH3:21])=[O:22])[NH:18][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,17.724690488934407,-38.47085849228796
2948,3289,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[CH-:7][NH+:8]=[C:9]([CH3:10])[C:11]#[N:12]>>[CH2:1]1[CH2:2][CH:7]([C:5]([O:4][CH3:3])=[O:6])[NH:8][C:9]1([CH3:10])[C:11]#[N:12],water,298.15,15.718108042778914,-36.14821120970253
1351,1481,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][C:22](=[O:23])[O:24][CH3:25].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:21]([C:22](=[O:23])[O:24][CH3:25])[O:20][N:19]3[C:17]([NH:16][CH3:15])=[O:18],water,298.15,14.3464284863153,-76.49636023695541
1680,1853,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([CH3:18])[C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2](=[O:3])/[C:4]([Cl:5])=[C:6](/[Cl:7])[C:8]([CH3:9])=[O:10]>>[CH3:1][C:2](=[O:3])[C@:4]1([Cl:5])[C@:6]([Cl:7])([C:8]([CH3:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:22](=[O:23])[O:24][CH3:25])[O:16][C:17]1([CH3:18])[C:19]([CH3:20])=[O:21],water,298.15,19.585760471759613,-36.1313705503552
696,756,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]([CH3:17])=[CH:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:18]([C:19](=[O:20])[O:21][CH3:22])[N:16]([CH3:17])[N:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,21.970225208510342,-41.53377837352768
2086,2314,[CH3:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([C:19]#[N:20])[C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:14]([CH3:13])=[O:15])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:17][C:18]2([C:19]#[N:20])[C:21]#[N:22],water,298.15,31.924662841248736,0.7286573417770874
2199,2438,[CH3:19][C:20]([C:21]#[N:22])=[N+:23]([CH3:24])[CH-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:23]([CH3:24])[C:20]2([CH3:19])[C:21]#[N:22],water,298.15,16.562045698986275,-49.79986889261632
3718,4246,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[N+:12]([CH3:13])[C-:14]([CH3:15])[C:16](=[O:17])[O:18][CH3:19]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:14]([CH3:15])([C:16](=[O:17])[O:18][CH3:19])[N:12]([CH3:13])[C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:10]#[N:11],water,298.15,32.73941906225066,-17.733724969746486
95,107,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14]#[N:15])[C:16]#[N:17]>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:11]([C:9]([CH3:8])=[O:10])=[N:12][C:13]1([C:14]#[N:15])[C:16]#[N:17],water,298.15,21.061577034826925,-51.089923084599256
1422,1564,[CH3:18][NH:19][C:20](=[O:21])[CH:22]=[NH+:23][C-:24]([CH3:25])[C:26]#[N:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[CH:22]([C:20]([NH:19][CH3:18])=[O:21])[NH:23][C:24]3([CH3:25])[C:26]#[N:27],water,298.15,11.623420627609988,-45.92466927055997
